US08372842B2
A mixture of tert-butyl 4-(5-cyclopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (1.44 g, 4.2 mmol) and powdered potassium hydroxide (692 mg, 10.5 mmol) in DMF (20 mL) was treated with iodine (2.13 g, 8.39 mmol), and the mixture was heated at 60° C. for 5 hours. The mixture was cooled to room temperature, diluted with EtOAc (200 mL) and successively washed with a saturated Na2S2O3 solution (2×20 mL) and water (2×50 mL). The organic layer was separated, dried (MgSO4), filtered, and concentrated in vacuo to provide the crude tert-butyl 4-(5-cyclopropyl-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (2 g, 102% yield) as a solid. LCMS (APCI+) m/z 470.1 (M+H)+.

reactant | tert-butyl 4-(5-cyclopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 4.2 mmol, 1.44 g | C1(CC1)C=1C(=C2C(=NC1)NN=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C18H25N5O2
reactant | potassium hydroxide | 10.5 mmol, 692 mg | [OH-].[K+]
reactant | iodine | 8.39 mmol, 2.13 g | II | I2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(5-cyclopropyl-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 2 g, 102% yield | C1(CC1)C=1C(=C2C(=NC1)NN=C2I)N2CCN(CC2)C(=O)OC(C)(C)C | C18H24IN5O2
